US07612114B2
6-{4-Hydroxy-2-{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Preparation Example 40, 1-{2-{4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenoxy}ethyl}piperidine (167 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (116 mg).

reactant | 4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol | COC=1C=CC(=C(C1)CCC1=CC=C(C=C1)O)C1CC2=CC=C(C=C2CC1)OC | C26H28O3
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | 1-{2-{4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenoxy}ethyl}piperidine | 167 mg | COC=1C=CC(=C(C1)CCC1=CC=C(OCCN2CCCCC2)C=C1)C1CC2=CC=C(C=C2CC1)OC | C33H41NO3
product | 6-{4-Hydroxy-2-{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 116 mg | OC1=CC(=C(C=C1)C1CC=2C=CC(=CC2CC1)O)CCC1=CC=C(C=C1)OCCN1CCCCC1 | C31H37NO3
